US04032527
A mixture of 2-(2-chloro-4-(diethylamino)benzoyl)-benzoic acid (6.61 g.), N,N,N',N'-tetraethyl-m-phenylenediamine (4.30 g.) and acetic anhydride (5 ml.) was allowed to stand overnight at room temperature, then diluted with methanol (10 ml.), affording 3-(2,4-bis(diethylamino)phenyl)3-(2-chloro-4-(diethylamino)phenyl)phthalide (I: X= Y4 = (CH3CH2)2N, Y2 = Cl, Z4 = Z5 = Z6 = Z7 = H) (3.94 g., m.p. 141°- 143° C.).

reactant | 2-(2-chloro-4-(diethylamino)benzoyl)-benzoic acid | 6.61 g | ClC1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)N(CC)CC | C18H18ClNO3
reactant | N,N,N',N'-tetraethyl-m-phenylenediamine | 4.30 g | C(C)N(C1=CC(=CC=C1)N(CC)CC)CC | C14H24N2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 10 ml | CO | CH4O
product | 3-(2,4-bis(diethylamino)phenyl)3-(2-chloro-4-(diethylamino)phenyl)phthalide | 3.94 g | C(C)N(C1=C(C=CC(=C1)N(CC)CC)C1(OC(=O)C2=CC=CC=C12)C1=C(C=C(C=C1)N(CC)CC)Cl)CC | C32H40ClN3O2
